US07713994B2
[1-(2-Fluoro-4-nitro-phenyl)-pyrrolidin-2-ylmethyl]-dimethyl-amine
1-(2-Fluoro-4-nitro-phenyl)-pyrrolidine-2-carbaldehyde (100 mg, 0.42 mmol) and dimethylamine (large excess) is stirred at room temperature in CH2Cl2 for 5 min and NaBH(OAc)3 (120 mg, 0.57 mmol) is added. The reaction is stopped after 30 min as TLC suggested complete conversion and the desired product (77 mg, 69%) is isolated after chromatography.

reactant | 1-(2-Fluoro-4-nitro-phenyl)-pyrrolidine-2-carbaldehyde | 0.42 mmol, 100 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(CCC1)C=O | C11H11FN2O3
reactant | dimethylamine | CNC | C2H7N
reactant | NaBH(OAc)3 | 0.57 mmol, 120 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [1-(2-Fluoro-4-nitro-phenyl)-pyrrolidin-2-ylmethyl]-dimethyl-amine | 77 mg, 69% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(CCC1)CN(C)C | C13H18FN3O2
